US05475014
3-[2-(1-hydroxy-4-cyanobutyl)benzothiazol-6-yl]-5-methoxymethyl-2-oxazolidinone
2.8 g of the 3-[2-(1,4-dihydroxybutyl)benzothiazol-6-yl]-5-methoxymethyl-2-oxazolidinone thus obtained was dissolved in 20 ml of anhydrous methylene chloride and 1 ml of anhydrous triethylamine was added to the solution. 0.6 ml of methanesulfonyl chloride was slowly added to the solution under cooling with ice. After stirring for 30 min, 100 ml of diethyl ether was added to the reaction mixture. An insoluble matter was filtered off and then the solvent was distilled off. The resulting crude product was dissolved in 15 ml of dimethyl sulfoxide. 1.5 g of potassium cyanide was added to the solution and a reaction was conducted at 80° C. for 8 h. After cooling the reaction liquid followed by ordinary treatment and purification, 1.5 g of the titled compound was obtained.

reactant | 3-[2-(1,4-dihydroxybutyl)benzothiazol-6-yl]-5-methoxymethyl-2-oxazolidinone | 2.8 g | OC(CCCO)C=1SC2=C(N1)C=CC(=C2)N2C(OC(C2)COC)=O | C16H20N2O5S
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.6 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 3-[2-(1-hydroxy-4-cyanobutyl)benzothiazol-6-yl]-5-methoxymethyl-2-oxazolidinone | 1.5 g | OC(CCCC#N)C=1SC2=C(N1)C=CC(=C2)N2C(OC(C2)COC)=O | C17H19N3O4S
